US08383379B2
3-Hydroxybutyrate-4-hydroxybutyrate-lactate terpolymer was prepared according to the method of example 2 except that the collected cells was anaerobically cultured for 3 days in MR medium further containing 2 g/L of 4-hydroxybutyrate (4-HB), 1 g/L of 3-hydroxybutyrate (3-HB), 100 mg/L of ampicillin and 30 mg/L of chloramphenicol instead of MR medium further containing g/L of 4-HB, 100 mg/L of ampicillin and 30 mg/L of chloramphenicol.

reactant | 4-hydroxybutyrate | OCCCC(=O)[O-]
reactant | 3-hydroxybutyrate | OC(CC(=O)[O-])C
reactant | ampicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N)C(=O)O)C | C16H19N3O4S
reactant | chloramphenicol | C1=CC(=CC=C1[C@H]([C@@H](CO)NC(=O)C(Cl)Cl)O)[N+](=O)[O-] | C11H12Cl2N2O5
product | 3-Hydroxybutyrate 4-hydroxybutyrate lactate | OC(CC(=O)[O-])C.OCCCC(=O)[O-].C(C(O)C)(=O)[O-] | InChI=1S/2C4H8O3.C3H6O3/c1-3(5)2-4(6)7;5-3-1-2-4(6)7;1-2(4)3(5)6/h3,5H,2H2,1H3,(H,6,7);5H,1-3H2,(H,6,7);2,4H,1H3,(H,5,6)/p-3
